US08912208B2
A. (4-{4-[5-(Benzooxazol-2-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester
65 mg of {4-[4-(5-Amino-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester and 0.3 Ml of 2-chlorobenzoxazole were dissolved in 1.5 Ml of t-BuOH/DME (1:1) in a 5 Ml microwave tube with a stirring bar. 0.1 Ml of 4N-HCl in dioxane was added and the reaction vessel was sealed and heated at 120° C. for 2 hours by microwave. The reaction was diluted with ethyl acetate and the resulting precipitates were filtered and washed with ethyl acetate. The filter cake was dried by air in the suction funnel and analyzed by 1H-NMR (400 MHz, DMSO-d6) ppm 1.2 (s, 3 H) 1.5 (s, 2 H) 1.8 (s, 6 H) 2.3 (d, J=6.8 Hz, 2 H) 3.6 (s, 4 H) 7.2 (m, 1 H) 7.3 (m, 1 H) 7.3 (d, J=8.3 Hz, 2 H) 7.5 (d, J=13.9 Hz, 2 H) 8.0 (m, 3 H) 8.4 (m, 1 H) 8.9 (d, J=2.3 Hz, 1 H) 11.0 (s, 1 H); (M+H)+ 442.2.

reactant | {4-[4-(5-Amino-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 65 mg | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)N)=O | C20H24N2O2
reactant | 2-chlorobenzoxazole | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | HCl | Cl | ClH
solvent | t-BuOH DME | CC(C)(C)O.COCCOC
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-{4-[5-(Benzooxazol-2-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)NC=1OC2=C(N1)C=CC=C2)=O | C27H27N3O3
